US08207164B2
k) (5-{3-[(Furan-2-carbonyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
[5-(3-Amino-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (264 mg, 0.865 mmol), furan-2-carboxylic acid (107 mg, 0.951 mmol) and HOBT (172 mg, 1.124 mmol) were dissolved in dichloromethane under N2 at 0° C. DIPEA (112 mg, 0.865 mmol) and EDC (182 mg, 0.951 mmol) were added. The mixture was stirred at 0° C. for 10 min, then allowed to warm to room temperature, stirred for 17 h at room temperature, quenched with 1M aqueous KHCO3 solution and extracted with dichloromethane. The organic phase was washed with water and brine, dried with Na2SO4 and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (cyclohexane/EtOAc) to yield the title compound in the form of a colourless solid. 1H-NMR (400 MHz, DMSO-d6): 9.86 (br, 1H), 9.27 (br, 1H), 7.83 (d, 1H), 7.69 (m, 2H), 7.30 (m, 2H), 7.15 (dd, 1H), 6.65 (m, 1H), 4.40-4.30 (m, 2H), 3.75-3.55 (m, 2H), 1.52 (s, 3H), 1.44 (s, 9H); MS: 400 [(M+H)+].

reactant | [5-(3-Amino-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.865 mmol, 264 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)N)=O | C16H23N3O3
reactant | furan-2-carboxylic acid | 0.951 mmol, 107 mg | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | HOBT | 1.124 mmol, 172 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.865 mmol, 112 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 0.951 mmol, 182 mg
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5-{3-[(Furan-2-carbonyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)NC(=O)C=1OC=CC1)=O | C21H25N3O5
